US06297260B1
20a. 2,2,2-Trifluoro-N-[(methylamino)ethyl]acetamide
N-Methyl ethylenediamine (15 g, 202.3 mmol) was added dropwise to a stirred solution of ethyl trifluoroacetate (28.7 g, 204.34 mmol) in dry Et2O (50 mL) at 0° C. The resulting solution was stirred at room temperature for 2 hours. Hexane (75 mL) was added and the solution was left at −20° C. for 16 hours to produce a white precipitate which was removed by filtration, washed with Et2O (100 mL) and dried in vacuo for 3 hours to afford the title compound (29.4 g, 85%). 1H NMR (300 MHz, CDCl3) δ 3.42 (t, J=5.8 Hz, 2H), 2.80 (t, J=5.9 Hz, 2H), 2.43 (s, 3H); mass spectrum (API-TIS) 171 (M+H).

reactant | N-Methyl ethylenediamine | 202.3 mmol, 15 g | CNCCN | C3H10N2
reactant | ethyl trifluoroacetate | 204.34 mmol, 28.7 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | Hexane | 75 mL | CCCCCC | C6H14
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 2,2,2-Trifluoro-N-[(methylamino)ethyl]acetamide | 29.4 g, 85% | FC(C(=O)NCCNC)(F)F | C5H9F3N2O
